US04017505
1-n-Octylthiocarbonyl-2-(4-thiazolyl)-benzimidazole
249 G. (1.19 moles) of n-octylthiocarbonyl chloride is added dropwise over a period of 20 minutes to a stirred suspension of 240 g. (1.19 moles) of 2-(4-thiazolyl)-benzimidazole and 2400 ml. of pyridine; a slight heat rise is evidenced. The reaction mixture is stirred at room temperature for 19 hours, filtered and the solid material washed with methylene chloride. The combined filtrate and washings are evaporated to dryness in vacuo. The residue is mixed with 2000 ml. of methylene chloride and filtered. The solid material is washed with methylene chloride and the combined filtrate and washing are wased twice with water, 3 times with cold 0.25 normal hydrochloric acid (5000 ml. total volume), once with saturated cold sodium bicarbonate and twice with water. The methylene chloride is dried, evaporated to dryness in vacuo affording a syrupy oil which crystallizes under vacuum. The solid material is dissolved in 3 liters of hexane and filtered and the hexane evaporated to a small volume and diluted with petroleum ether to a volume of 3000 ml. whereupon crystallization results. The solid material is filtered and washed with cold petroleum ether affording 219.8 g. (54%) of pure 1-n-octylthiocarbonyl-2-(4-thiazolyl)-benzimidazole, melting point 58° to 59° C.

reactant | n-octylthiocarbonyl chloride | 1.19 moles | C(CCCCCCC)C(=S)Cl | C9H17ClS
reactant | 2-(4-thiazolyl)-benzimidazole | 1.19 moles | S1C=NC(=C1)C=1NC2=C(N1)C=CC=C2 | C10H7N3S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-n-Octylthiocarbonyl-2-(4-thiazolyl)-benzimidazole | C(CCCCCCC)C(=S)N1C(=NC2=C1C=CC=C2)C=2N=CSC2 | C19H23N3S2
